Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right vertebral artery aneurysm
 
Major Surgical or Invasive Procedure:
Cerebral Angiogram with coiling/ sacrificed R vert art

 
History of Present Illness:
Mr. ___ is a ___ year-old R-handed man with past medical 
history of HTN, HL, CAD and recent ___ (___) with coiling 
of a R vertebral artery
aneurysm, found on repeat imaging to have been only partially
coiled. 

He was in ___ in ___ visiting family when he started to 
have a headache that involved his "whole head" and the nape of 
his neck.  He had a head CT done, which showed a right vertebral 
artery aneurysm.  He underwent aneurysm coiling, and when it was 
safe for him to fly, he returned to the ___ on ___.  2 
weeks after his return he began to experience the same type of
headaches as previously but "less painful".  He arranged to see 
a neurosurgeon through his PCP, and had an angio done on ___, 
which showed that the coiled aneurysm was still filling. He was 
scheduled for an elective re-coiling of the aneurysm.
 
Past Medical History:
1.  Abnormal electrocardiogram (incomplete right bundle-branch
block, ?fixed splitting of loud S2).
2.  Hypertension.
3.  Dyslipidemia.
4.  presumed coronary artery disease given his EKG 
abnormalities.
5.  ___ s/p R vertebral artery partial coiling in ___ in ___, shown on repeat imaging to still have filling.
.

 
Social History:
___
Family History:
His father died at age ___ of a myocardial
infarction.  He sustained his first MI in his ___.  His mother 
is
living, age ___ and suffers from congestive heart failure.  He 
has
five brothers, one of whom has hypertension and hyperlipidemia
and one sister who suffers from diabetes.  He has no children. 
There is no family history notable for stroke or sudden cardiac
death.

 
Physical Exam:
On admission: Nonfocal exam

Upon discharge- exam unchanged, no focal deficits, intact, groin 
site soft to touch, no hematoma. + pedal pulses
 
Pertinent Results:
___ 10:45AM   ___ PTT-27.6 ___
___ 02:00PM   ___ PTT-150* ___
___ 04:59PM   ___ PTT-35.4* ___
___ 06:38PM   PTT-29.1
___ 08:58PM   PTT-45.2*

___ 09:15PM BLOOD ___ PTT-73.6* ___
___ 04:55AM BLOOD ___ PTT-92.5* ___

___ ECHO
No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no 
pericardial effusion. Dr. ___ was notified in person of the 
results at time of procedure.  

 
Brief Hospital Course:
Mr. ___ was admitted to ___ under the care of Dr. ___, 
___. He underwent a cerebral angiogram on ___ and the 
right vertebral artery was sacraficed. Neurology was consulted 
and they agreed with Heparinization overnight with goal PTT of 
70-90 and also asked for Coumadin to be started. He required 
increase in Heprain gtt due to subtherepeutic PTT overnight. His 
post-angio check repevaled a normal neurologic exam. Pedal 
pulses were good and there was no groin hematoma. He was 
transfered to the SDU and OOB on ___. His PTT/INR where at 
therepeutic range and his heparin was Dc'ed ovenight on ___ 
into ___. Coumadin was continued. He was cleared for discharge 
to home.
 
Medications on Admission:
Aspirin 81 mg p.o. daily, candesartan 16 mg p.o.
daily, ___ 10 mg p.o. daily (___), Contolip 250 
mg p.o. daily (___)

 
Discharge Medications:
1. candesartan 16 mg Tablet Sig: One (1) Tablet PO Daily ().  
2. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for Pain/fever: max 4g/24 hrs.  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for Pain.
Disp:*20 Tablet(s)* Refills:*0*
6. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. ___  Sig: Ten (10) mg  once a day: Home med from ___ 
___.  
8. butalbital-acetaminophen-caff 50-325-40 mg Tablet Sig: ___ 
Tablets PO Q6H (every 6 hours) as needed for Headache.
Disp:*90 Tablet(s)* Refills:*0*
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*0*
10. warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day: 
Please check INR with PCP in one week.
Disp:*60 Tablet(s)* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Vertebral artery Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Angiogram 
Medications:
•Take Aspirin 325mg (enteric coated) once daily.
•Take Coumadin daily for three months total. Follow up with 
your PCP and Dr. ___ Neurology for this. INR goal ___
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort.

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs.
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal).
•After 1 week, you may resume sexual activity.
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate.
•No driving until you are no longer taking pain medications

What to report to office:
•Changes in vision (loss of vision, blurring, double vision, 
half vision)
•Slurring of speech or difficulty finding correct words to use
•Severe headache or worsening headache not controlled by pain 
medication
•A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
•Trouble swallowing, breathing, or talking
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

*SUDDEN, SEVERE BLEEDING OR SWELLING 
(Groin puncture site)
Lie down, keep leg straight and have someone apply firm pressure 
to area for 10 minutes. If bleeding stops, call our office. If 
bleeding does not stop, call ___ for transfer to closest 
Emergency Room

 
Followup Instructions:
___